US07989444B2
2-Cyclopropyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-cyclopropyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.46 mmol) and 5-{5-[(3 chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (0.544 mmol) and was obtained as a yellow solid (0.19 mmol).

reactant | 2-cyclopropyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.46 mmol | C1(CC1)C=1OC2=CC3=C(CCNCC3)C=C2N1 | C14H16N2O
reactant | 5-{5-[(3 chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 0.544 mmol | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 2-Cyclopropyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.C1(CC1)C=1OC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1 | InChI=1S/C30H32N6OS.ClH/c1-19-7-10-23-24(5-3-6-25(23)31-19)28-33-34-30(35(28)2)38-16-4-13-36-14-11-21-17-26-27(18-22(21)12-15-36)37-29(32-26)20-8-9-20;/h3,5-7,10,17-18,20H,4,8-9,11-16H2,1-2H3;1H
